US07250535B2
In a 300 ml four-necked flask thoroughly purged with nitrogen, a Grignard reagent solution previously prepared from 5.6 g (0.060 mol) of n-butyl chloride and 1.7 g (0.072 mol) of metallic magnesium in 100 ml of tetrahydrofuran, and 0.13 g (0.0005 mol (corresponding to 1% by mol)) of copper(II) acetylacetonate were placed. To the contents of the flask, a solution of 9.0 g (0.05 mol) of di-tert-butylphosphinous chloride in 30 ml of tetrahydrofuran was dropwise added over a period of 1 hour with maintaining the temperature at 20° C. to 25° C. After the dropwise addition was completed, stirring was conducted at the same temperature for 2 hours. Thereafter, 30 ml of toluene and 20 ml of a 5% sulfuric acid aqueous solution were added to the reaction solution to perform liquid separation. Then, the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, followed by further distillation. Then, fractions given by distillation at 111° C. under reduced pressure of 19 Torr were collected. As a result, 9.4 g (purity: 98.0%) of the aimed di-tert-butyl(n-butyl)phosphine was obtained. The yield was 91.1%.

reactant | n-butyl chloride | 0.060 mol, 5.6 g | C(CCC)Cl | C4H9Cl
reactant | magnesium | 0.072 mol, 1.7 g | [Mg] | Mg
reactant | di-tert-butylphosphinous chloride | 0.05 mol, 9.0 g | C(C)(C)(C)P(C(C)(C)C)Cl | C8H18ClP
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | copper(II) acetylacetonate | 0.0005 mol, 0.13 g | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Cu]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | di-tert-butyl(n-butyl)phosphine | 9.4 g, yield was 91.1% | C(C)(C)(C)P(CCCC)C(C)(C)C | C12H27P
